US08629271B2
h) 8-(2-Amino-1-hydroxyethyl)-5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one acetate, Isomer 1
A mixture of 8-(2-azido-1-hydroxyethyl)-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one, Isomer 1 (example 11, step g) (0.67 g) in ethanol (30 mL) with 10% palladium on carbon catalyst (0.210 g) was stirred vigorously under 4 bar pressure of hydrogen for 18 hours. The catalyst was filtered off and the solvent evaporated off under reduced pressure. The residue was dissolved in acetic acid (15 mL) and ethanol (15 mL) and the mixture stirred with 10% palladium on carbon catalyst (0.210 g) under 4 bar pressure of hydrogen for 18 hours. The mixture was filtered and fresh 10% palladium on carbon catalyst (0.210 g) was added and stirring under 4 bar pressure of hydrogen was continued for 18 hours. The mixture was filtered and fresh 10% palladium on carbon catalyst (0.210 g) added and stirring under 4 bar pressure of hydrogen was continued for 18 hours. The mixture was filtered and the solvent removed under reduced pressure. The residue was triturated with acetonitrile (30 mL) to afford the subtitled compound. Yield 0.33 g.

reactant | 8-(2-azido-1-hydroxyethyl)-5-(benzyloxy)-2H-benzo[b][1,4]oxazin-3(4H)-one | N(=[N+]=[N-])CC(O)C1=CC=C(C2=C1OCC(N2)=O)OCC2=CC=CC=C2 | C17H16N4O4
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.210 g | [Pd] | Pd
product | 8-(2-Amino-1-hydroxyethyl)-5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one acetate | C(C)(=O)O.NCC(O)C1=CC=C(C2=C1OCC(N2)=O)O | InChI=1S/C10H12N2O4.C2H4O2/c11-3-7(14)5-1-2-6(13)9-10(5)16-4-8(15)12-9;1-2(3)4/h1-2,7,13-14H,3-4,11H2,(H,12,15);1H3,(H,3,4)
